US07531532B2
1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-{4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}urea
To a solution of 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea (96 mg) in tetrahydrofuran (10 ml) was added a solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 2.33 ml), followed by stirring at room temperature for 2.5 hrs. A solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 0.800 ml) was added to the reaction mixture, followed by stirring at room temperature for 30 min. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated to give a residue, which was then purified by silica gel column chromatography (FUJI Silysia NH, eluent; ethyl acetate:methanol=100:7). Fractions containing a target compound were concentrated to provide the titled compound (64.5 mg, 48%) as pale yellow powder.

reactant | 3-[4-(4-aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 96 mg | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C22H32N6O2
reactant | 2-phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.25 M, 2.33 ml | CCCCCC | C6H14
solvent | hexane | 0.25 M, 0.800 ml | CCCCCC | C6H14
product | 1-[1-(2-Dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-{4-[4-(3-phenylacetylureido)phenoxy]pyridin-2-yl}urea | 64.5 mg, 48% | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)NC(CC1=CC=CC=C1)=O)C)C | C31H39N7O4
